US08022062B2
Combine 3-(tert-butoxycarbonyl)-6-(4-carboxy-benzylamino)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.1 g, 0.3 mmol), methylamine hydrochloride (31 mg, 0.46 mmol), triethylamine (0.1 g, 0.9 mmol), HATU (0.2 g, 0.5 mmol), anhydrous DMF (3 mL) and stir at ambient temperature for 17 h. Partition the reaction mixture between brine (5 mL) and diethyl ether (5 mL), separate the organic layer and dry over anhydrous Na2SO4. Evaporate the solvent to obtain 3-(tert-butoxycarbonyl)-7-chloro-6-(4-methylcarbamoyl-benzylamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a yellow oil (0.1 g, 93%). MS (ES+) m/z: 344 (M+H−Boc)+.

reactant | 3-(tert-butoxycarbonyl)-6-(4-carboxy-benzylamino)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.3 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)NCC2=CC=C(C=C2)C(=O)O | C23H27ClN2O4
reactant | methylamine hydrochloride | 0.46 mmol, 31 mg | Cl.CN
reactant | triethylamine | 0.9 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.5 mmol, 0.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-(tert-butoxycarbonyl)-7-chloro-6-(4-methylcarbamoyl-benzylamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.1 g, 93% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)NCC2=CC=C(C=C2)C(NC)=O | C24H30ClN3O3
